US08536164B2
Step 1: Preparation of 4-(3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine 1-oxide
4-[3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-6,7-dihydro-5H-cyclopenta[b]pyridine was converted to the N-oxide following the general procedure described in Example 1, step 9. Silica gel chromatography using a 9:1 to 4:1 mixture of EtOAc/MeOH afforded 54% of Ex 24-Step 1 product as a yellow solid: LCMS m/z 310.5 (M+1); 1H NMR (400 MHz, CDCl3) δ 7.97 (d, J=6.6, 1H), 7.45 (s, 1H), 7.35 (dd, J=8.9, 5.4, 2H), 7.00 (dd, J=8.7, 8.7, 2H), 6.89 (d, J=6.6, 1H), 3.97 (s, 3H), 3.17 (t, J=7.6, 2H), 2.67 (t, J=7.6, 2H), 2.02-2.09 (m, 2H).

reactant | 4-[3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-6,7-dihydro-5H-cyclopenta[b]pyridine | FC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)CCC2)C | C18H16FN3
reactant | EtOAc MeOH | CCOC(=O)C.CO
product | 4-(3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine 1-oxide | FC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=[N+](C=C1)[O-])CCC2)C | C18H16FN3O
